US07915424B2
5-(3-{[(2-Cyanoethyl)methylamino]methyl}-4-fluorophenylethynyl)-nicotinonitrile
Dissolve 5-(4-fluoro-3-formylphenylethynyl)nicotinonitrile, (prepared as described in PREPARATION 38) (100 mg, 0.40 mmol) in dichloroethane (2 mL) and treat with N-methyl-β-alaninenitrile (0.041 mL, 0.44 mmol) and sodium triacetoxyborohydride (110 mg, 0.52 mmol). After stirring for 5.5 h, quench with water (2 mL), dilute with dichloromethane and extract three times with 0.5 N hydrochloric acid, but thin layer chromatography shows some product still remaining in the organic phase. Add 1 N sodium hydroxide to the aqueous layer until it is basic then extract twice with ethyl acetate. Combine the dichloromethane layer with the ethyl acetate extracts and wash with an aqueous saturated solution of sodium chloride, dry (sodium sulfate), filter, and concentrate. Purify by silica gel chromatography, eluting with 90:10 to 80:20 dichloromethane:ethyl acetate, to give the title compound as a white crystalline solid (55 mg, 43%).

reactant | 5-(4-fluoro-3-formylphenylethynyl)nicotinonitrile | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)C=O | C15H7FN2O
reactant | N-methyl-β-alaninenitrile | 0.44 mmol, 0.041 mL | CNCCC#N | C4H8N2
reactant | sodium triacetoxyborohydride | 0.52 mmol, 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 5-(3-{[(2-Cyanoethyl)methylamino]methyl}-4-fluorophenylethynyl)-nicotinonitrile | 55 mg, 43% | C(#N)CCN(C)CC=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C19H15FN4
